US09371320B2
C) (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylic acid
To a solution of ethyl (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylate (800 mg) in THF (7.36 mL) were added 1N aqueous sodium hydroxide solution (7.36 mL) and methanol (10 mL) at room temperature, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure to evaporate the methanol and THF, and the remaining aqueous solution was washed with diethyl ether (100 mL). The obtained aqueous layer was acidified with 1N hydrochloric acid (7.36 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (711 mg).

reactant | ethyl (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylate | 800 mg | BrC=1C=C(N(C1)[C@H]1[C@H](CCC1)C)/C=C/C(=O)OCC | C15H20BrNO2
reactant | sodium hydroxide | 1N, 7.36 mL | [OH-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | 7.36 mL | C1CCOC1 | C4H8O
product | (2E)-3-(4-bromo-1-(cis-2-methylcyclopentyl)-1H-pyrrol-2-yl)acrylic acid | 711 mg | BrC=1C=C(N(C1)[C@H]1[C@H](CCC1)C)/C=C/C(=O)O | C13H16BrNO2
